US07951810B2
Step a: [(3aR,4R,6R,6aR)-6-(6-{[(2-methoxybenzoyl)amino]methyl}-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate
The title compound was prepared following the procedure described in Example 127, step a using {(3aR,4R,6R,6aR)-6-[6-(aminomethyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl tritylsulfamate and 2-methoxybenzoyl chloride.

reactant | {(3aR,4R,6R,6aR)-6-[6-(aminomethyl)-9H-purin-9-yl]-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl}methyl tritylsulfamate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NS(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)CN)(=O)=O | C33H34N6O6S
reactant | 2-methoxybenzoyl chloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | [(3aR,4R,6R,6aR)-6-(6-{[(2-methoxybenzoyl)amino]methyl}-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NS(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)CNC(C2=C(C=CC=C2)OC)=O)(=O)=O | C41H40N6O8S
